US09193741B2
2-amino-6-hydroxy-8-(4-fluorophenyl)-9H-purine
This compound was synthesized from commercially available 2,5,6-triamino-4-hydroxypyrimidine (40 mmol) and 4-fluorobenzaldehyde (40 mmol), yielding the title compound in 60% yield.

reactant | 2,5,6-triamino-4-hydroxypyrimidine | 40 mmol | NC1=NC(=C(C(=N1)O)N)N | C4H7N5O
reactant | 4-fluorobenzaldehyde | 40 mmol | FC1=CC=C(C=O)C=C1 | C7H5FO
product | 2-amino-6-hydroxy-8-(4-fluorophenyl)-9H-purine | 60% yield | NC1=NC(=C2N=C(NC2=N1)C1=CC=C(C=C1)F)O | C11H8FN5O
